US07138395B2
Preparation of 6-methoxy-piperazine-1,2,4-tricarboxylic acid 4-benzyl ester 1-tert-butyl ester 2-methyl ester (1):
A solution containing 3-(allylbenzyloxycarbonylamino)-2-(S)-tert-butoxycarbonylamino propionic acid methyl ester (5.2 g, 12.8 mmol) in 550 mL of 10:1 CH2Cl2/MeOH is cooled to −78° C. Ozone gas is passed through the solution until a blue color persists. The solution is purged with N2 to remove excess ozone and is then treated with excess dimethylsulfide. The solution is allowed to warm to rt overnight and the next morning concentrated in vacuo. The crude residue obtained is re-dissolved in MeOH and treated with Dowex50x-200. After stirring for 4 h, the solution was filtered, concentrated and immediately purified by flash chromatography on silica gel (EtOAc/hexane) to afford 2.75 g (53% yield) of the desired product. 1H NMR (CDCl3) δ 7.40 (m, 5H), 5.60–3.40 (series of m, 6H), 5.19 (br s, 2H), 3.74 (s, 3H), 3.40 (series of s, 3H), 1.50 (series of s, 9H); MS 409 (M+H)+.

reactant | 3-(allylbenzyloxycarbonylamino)-2-(S)-tert-butoxycarbonylamino propionic acid methyl ester | 12.8 mmol, 5.2 g | COC([C@H](CN(C(=O)OCC1=CC=CC=C1)CC=C)NC(=O)OC(C)(C)C)=O | C20H28N2O6
reactant | Ozone | O=[O+][O-] | O3
reactant | CH2Cl2 MeOH | 550 mL | C(Cl)Cl.CO
solvent | MeOH | CO | CH4O
product | 6-methoxy-piperazine-1,2,4-tricarboxylic acid 4-benzyl ester 1-tert-butyl ester 2-methyl ester | 2.75 g, 53% yield | COC(=O)C1N(C(CN(C1)C(=O)OCC1=CC=CC=C1)OC)C(=O)OC(C)(C)C | C20H28N2O7
